Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Back pain, compression fracture
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
HPI(4): Mr. ___ is a ___ male with the past medical
history of hypertension, hyperlipidemia, atrial
fibrillation on Coumadin who presents from ___
with an L2 compression fracture.

Patient has had 2 to 3 weeks of acute worsening
low back pain.  The patient initially had a fall at home which 
he
does not remember.  He subsequently had an episode where he was
reaching up any other way of the trunk opening of the car when 
he
twisted to the left and he felt significant pain and twisting in
his lower back. He is had pain progressing to the point he is
been unable to walk. Unclear if head strike.

 He was seen on ___ at the ___ emergency
department where he had an x-ray which demonstrated a 
compression
fracture.  He was given pain control and sent home.  He returns
today with 4 to 5 days of worsening of the same lower back pain. 

He denies any numbness or paresthesias, fecal incontinence or
urinary retention, fevers, additional falls, weakness in his
legs.  He does state that he has severe pain which is the reason
why he cannot walk.  
He underwent a CT scan at ___ which showed a
moderate to severe compression deformity of the L2 vertebral 
body
with retropulsion causing moderate to severe spinal canal
stenosis.

In the ED
T 97.4-101, BP 120/86- 161/89, Spo2 94-100%, HR ___
Meds APAP x4, Hydromorphone 0.25, simvastatin 20mg, olanzapine
5mg x2, zosyn x2, vanc x2, haloperidol 5mg IM, atenolol 25 , LR
4L
INR 3.5 WBC 10 Plt 252 Hb 13.9
Bcx Ucx pending UA non infectious, though retained sign urine
In th ED pt was initially evaluated by ___ and cleared for rehab,
got a bed. However spiked a fever and then became acutely
delirious, unclear source. Covered broadly & cultured. Adm for
delirium & relief of underlining trigger

On the Floor - pt noted to be picking at air and blanket,
hallucinating per family, unable to recognize them, Aox3, less
agitated than in ED and able to follow some commands and respond
to basic questions. 

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
PAST MEDICAL HISTORY: Hypertension, hypercholesterolemia, A. 
fib.
 
Social History:
Social/Occupational History: 
Pt lives with spouse who is functionally limited and at home 
during the day. The patient is the main caretaker of his wife. 
has 2 sons and 1 dtr close
Pt is retired ___
Current tobacco use:N
Patient is retired. He is a former ___,
drinks socially.

Living Environment:
Pt lives in a multi-level home.
6 Stairs to enter with railings.
Pt has: ___

Prior Functional Status/Activity Level: 
At home: Ambulates without an assistive device 
In Community: Ambulates without an assistive device, sometimes
uses wifes ___ for long distances.
Pt is a regular community ambulator.
Pt has a history of falls. pt does not recall most recent fall
I for ADLs 
I for IADLs 
Pt does participate in regular physical activity
Pt enjoys family
Drives (+)
 
Family History:
FAMILY HISTORY: Significant for heart disease.
 
Physical Exam:
EXAM
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, ? systolic murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Able to follow basic commands, but not recognize
family/AOx0, face symmetric, gaze conjugate with EOMI, speech
garbled, moves all limbs, though unable to assess strength /
sensory, tone wnl
PSYCH: pleasant, appropriate affect

Discharge exam:
___ ___ Temp: 97.7 PO BP: 120/77 HR: 78 RR: 18 O2 sat: 96% 
O2 delivery: RA 
General: Lying in bed, edentulous, more comfortable
HEENT:  OP moist, no LAD, no bruits appreciated
Resp anterior lung exam, clear.  No rales or wheezes
CV distant heart sounds, irregular without murmurs
GI soft, NT, ND, NABS
MS:  no edema
Neuro: Alert and oriented to person, place and date ultimately.  
Moves all extremities.  improved right foot strength.  Able to 
lift both legs off bed.  Not able to do months of year 
backwards.
Back was not examined
GU: condom catheter in place

 
Pertinent Results:
DATA: I have reviewed the relevant labs, radiology studies,
tracings, medical records, and they are notable for: 

141 | 104| 26
_______________/116
4.0 | 22 | 1.0 \

Ca: 9.2 Mg: 2.0 P: 3.1

WBC 10.0 Hb 13.9 Plt 252
N:74.3 

___: 37.8 INR: 3.5 

Chest xray ___:
FINDINGS:  
  
Diffuse pulmonary vascular congestion.  No evidence of focal 
consolidation, effusion or pneumothorax.  Cardiac silhouette is 
top normal.  There is no bony abnormalities. 
  
IMPRESSION:  
 
Diffuse pulmonary vascular congestion.  No evidence of focal 
consolidation. 

Discharge labs:

___ 07:17AM BLOOD WBC-9.0 RBC-4.56* Hgb-12.7* Hct-40.1 
MCV-88 MCH-27.9 MCHC-31.7* RDW-13.8 RDWSD-44.3 Plt ___
___ 07:17AM BLOOD ___
___ 07:17AM BLOOD Glucose-94 UreaN-30* Creat-1.0 Na-140 
K-4.0 Cl-103 HCO3-25 AnGap-12
___ 07:40AM BLOOD ALT-17 AST-26 LD(LDH)-221 CK(CPK)-164 
AlkPhos-90 TotBili-1.1
 
Brief Hospital Course:
Mr. ___ is a ___ male with the past medical history 
hypertension, hyperlipidemia, atrial fibrillation on Coumadin 
who presents from ___
with an L2 compression fracture.  His hospitalization at the 
___ was complicated by an acute delirium, likely related 
to pain as well as pain medications and a fever without 
infection identified.  This was most likely related to an 
aspiration pneumonitis.  He is now stable for discharge to rehab 
on Tylenol for pain.

#Delirium, acute toxic metabolic encephalopathy
Mr. ___ was admitted with acute delirium after spending 
overnight in the emergency room.  At baseline he is extremely 
functional as the primary caregiver for his wife he received 
multiple doses of antipsychotics in the emergency room and this 
was after pain medication with IV hydromorphone.  This overall 
appeared to be consistent with an agitated delirium related to 
both pain, pain medication as well as prolonged emergency room 
stay.  He was treated with delirium precautions.  He did spike a 
fever in the emergency room but did not receive more than 1 dose 
of IV antibiotics given that he did not have any localizing 
symptoms aside from a cough and he most likely aspirated in the 
context of his acute delirium.  He appeared extremely sensitive 
to any pain medications aside from Tylenol in the context of his 
acute delirium, including tramadol which, which should not be 
used.  He continues to sundown mildly while in the hospital, but 
overall his mental status improved significantly.

#L2 Compression 
He presented with pain from a L2 compression fracture.  He was 
seen by the spine service in the emergency room who recommended 
1 of 3 options including offering surgery, a kyphoplasty or 
supportive management with a TLSO brace.  He opted for TLSO 
brace.  His pain was controlled with Tylenol.  As stated above 
he is extremely sensitive to other medications.  His neurologic 
exam was notable for some mild right foot weakness which 
improved without intervention and does not in fact refer to his 
L to compression fracture.  He was seen by physical therapy and 
was transitioned to rehab for ultimate return to independent 
activity.  If his pain is not improving, he should follow-up in 
the ___ here.  Phone numbers in the discharge 
paperwork.  He needs to wear the TLSO brace when he is out of 
bed until cleared by the spine service.

#AFib -he is chronically on warfarin for atrial fibrillation on 
atenolol for rate control.  The atenolol was held as his blood 
pressure was low and his heart rate was controlled.  This was 
restarted at discharge.  His warfarin was held for 2 days and 
then he was restarted on his home dose, however his INR should 
be closely followed with an INR in ___ days to ensure that it is 
stable on the current dose. 

#Dysphagia
He was noted to have coughing with eating.  He is seen by the 
swallow specialist and was recommended to have ground solids and 
nectar thin liquids.  Most likely he will be able to be upgraded 
at his able to wear his dentures and as his mental status 
improves.  It is possible that his initial fever in the 
emergency room was due to an aspiration event, however he had no 
evidence of aspiration pneumonia and most likely he might just 
had a pneumonitis related to the aspiration event.

#HTN -atenolol was held but restarted at discharge.  
Hydrochlorothiazide was held this is not been taking it and 
likely in the context of some mild weight loss no longer 
requires 2 agents.  In addition at his age diuretic treatment 
might be less than optimal treatment for hypertension

#Hyperlipidemia.  His simvastatin was continued while 
hospitalized.

Healthcare proxy is his daughter ___ ___

transitional issues:

Spine service follow-up.  Phone number in discharge paperwork
Warfarin management given elevated INR on presentation
Swallow evaluation given downgrading of swallowing abilities 
while here.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Influenza Vaccine Quadrivalent 0.5 mL IM NOW X1 
Start: ___, First Dose: Next Routine Administration Time 
2. Atenolol 25 mg PO DAILY 
3. Simvastatin 40 mg PO QPM 
4. TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
5. Acetaminophen 1000 mg PO Q6H 
6. Hydrochlorothiazide 25 mg PO DAILY 
7. Warfarin 2.5 mg PO ___ & ___ 
8. Warfarin 5 mg PO ALL DAYS EXCEPT TUES/FRI 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H  
2.  Atenolol 25 mg PO DAILY  
3.  Simvastatin 40 mg PO QPM  
4.  Warfarin 2.5 mg PO ___ & ___  
5.  Warfarin 5 mg PO ALL DAYS EXCEPT TUES/FRI  
6. HELD- Hydrochlorothiazide 25 mg PO DAILY  This medication was 
held. Do not restart Hydrochlorothiazide until your blood 
pressure is running higher

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Compression fracture
Acute delirium
Fever
Atrial fibrillation
 
Discharge Condition:
tolerating diet, intermittent confusion, out of bed with TLSO 
brace
 
Discharge Instructions:
See dc summary
 
Followup Instructions:
___